US04804750
The combined effluent fractions were freeze-dried to give 36 g of a solid mixture comprising tetra-N-acetylchitotetraose (NACOS-4), penta-N-acetyl-chitopentaose (NACOS-5) and hexa-N-acetyl-chitohexaose (NACOS-6), together with minor proportions of N-acetylglucosamine, di-N-acetyl-chitobiose, tri-N-acetyl-chitotriose. This mixture comprising the water-soluble chitin-oligomers was then chromatographed by a high pressure liquid chromatography on a column of μ-Bondapack CH (a product of Waters Company, U.S.A.) as eluted with methylnitrile-water (70:30 by volume), to effect the isolation of the chitin-oligomers from each other, affording 3.10 g of hexa-N-acetylchitohexaose having an [α]D of -11.2° and a decomposition temperature of 300° C., 7.6 g of penta-N-acetyl-chitopentaose having an [α]D of -9.0° and a decompsition temperature of 304° C.; and 8.1 g of tetra-N-acetyl-chitotetraose having an [α]D of -4.2° and a decomposition temperature of 299° C.

reactant | N-acetylglucosamine | C(C)(=O)N[C@H]1C(O)O[C@@H]([C@H]([C@@H]1O)O)CO | C8H15NO6
reactant | di-N-acetyl-chitobiose | CC(=O)N[C@@H]1[C@H]([C@@H]([C@H](O[C@H]1O[C@H]([C@@H](CO)O)[C@@H]([C@H](C=O)NC(=O)C)O)CO)O)O | C16H28N2O11
reactant | tri-N-acetyl-chitotriose | CC(=O)N[C@@H]1[C@H]([C@@H]([C@H](O[C@H]1O[C@@H]2[C@H](O[C@H]([C@@H]([C@H]2O)NC(=O)C)O[C@H]([C@@H](CO)O)[C@@H]([C@H](C=O)NC(=O)C)O)CO)CO)O)O | C24H41N3O16
solvent | water | O | H2O
product | hexa-N-acetylchitohexaose | 3.10 g | CC(=O)N[C@@H]1[C@H]([C@@H]([C@H](O[C@H]1O[C@@H]2[C@H](O[C@H]([C@@H]([C@H]2O)NC(=O)C)O[C@@H]3[C@H](O[C@H]([C@@H]([C@H]3O)NC(=O)C)O[C@@H]4[C@H](O[C@H]([C@@H]([C@H]4O)NC(=O)C)O[C@@H]5[C@H](O[C@H]([C@@H]([C@H]5O)NC(=O)C)O[C@H]([C@@H](CO)O)[C@@H]([C@H](C=O)NC(=O)C)O)CO)CO)CO)CO)CO)O)O | C48H80N6O31
